US07576218B2
In a 4 mL vial was added 50 mg of 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carbonitrile (0.11 mmol, 1.00 eq), 80 mg cobalt (II) chloride (0.33 mmol, 3.00 eq), 10 mg NaBH4 (0.22 mmol, 2.00 eq) and 500 uL methanol. The mixture was allowed to stir overnight at room temperature and the crude product was purified by reversed phase HPLC (acetonitrile—H2O with 0.1% TFA as the eluent) to yield 1-[4-aminomethyl-4-(4-chloro-phenyl)-piperidin-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone. MS (ES) M+H expected=448.0, found=448.1

reactant | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carbonitrile | 0.11 mmol, 50 mg, 1.00 eq | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl)C(F)(F)F | C19H17Cl2F3N4O
reactant | NaBH4 | 0.22 mmol, 10 mg, 2.00 eq | [BH4-].[Na+]
catalyst | cobalt (II) chloride | 0.33 mmol, 80 mg, 3.00 eq | [Co](Cl)Cl
solvent | methanol | 500 uL | CO | CH4O
product | 1-[4-aminomethyl-4-(4-chloro-phenyl)-piperidin-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | NCC1(CCN(CC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C19H21Cl2F3N4O
